US07666878B2
A solution of BEMP (90 μL, 0.31 mmol) in DMF (400 μL) is added to a solution of (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester (40 mg, 0.20 mmol) in DMF (400 μL). After 40-50 minutes, a solution of 4-methyl-benzenesulfonyl chloride (60 mg, 0.31 mmol) in DMF (400 μL) is added. After a further 30 minutes, 1M aqueous NaOH (800 μL) is added, and the reaction is shaken mechanically for 105 minutes, then 1M aqueous HCl (800 μL) is added. The reaction is partitioned between water and CH2Cl2. The organic phase is loaded directly onto a pre-packed Isolute™ silica column and eluted with EtOAc to give crude product which is triturated with water to afford [2-methyl-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid; MH+=345.

reactant | BEMP | 0.31 mmol, 90 μL | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | 0.20 mmol, 40 mg | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | 4-methyl-benzenesulfonyl chloride | 0.31 mmol, 60 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | NaOH | 1M, 800 μL | [OH-].[Na+]
reactant | HCl | 1M, 800 μL | Cl | ClH
solvent | DMF | 400 μL | CN(C)C=O | C3H7NO
solvent | DMF | 400 μL | CN(C)C=O | C3H7NO
solvent | DMF | 400 μL | CN(C)C=O | C3H7NO
product | [2-methyl-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid | CC1=C(C=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)O | C17H16N2O4S
